US05086073
N-Butyl-N-methyl-4-chlorobenzenemethanamine
In a manner analogous to Example 1 a solution of N-butyl-N-methyl-4-chlorobenzamide (4.49 g; 0.02 mol) in dry THF (50 ml) was reacted with an ice-cooled solution of 1.0M diborane-THF complex (90 ml); 0.09 mol) to give the title compound which was converted to the hydrochloride salt and crystallised from ethyl acetate (1.51 g; 65.7%), mp 136°-138°.

reactant | N-butyl-N-methyl-4-chlorobenzamide | 0.02 mol, 4.49 g | C(CCC)N(C(C1=CC=C(C=C1)Cl)=O)C | C12H16ClNO
solvent | THF | 50 ml | C1CCOC1 | C4H8O
product | N-Butyl-N-methyl-4-chlorobenzenemethanamine | C(CCC)N(CC1=CC=C(C=C1)Cl)C | C12H18ClN
